US04091095
4.6 grams (0.02 mol) of dimethylphosphinylmethyl anthranilate and 4.6 grams (0.02 mol) of 4-chloro-8-trifluoromethylquinoline are kept at 80° C for about 31/2 hours in 15 ml of isopropanol and 2.3 ml of concentrated aqueous hydrochloric acid. After removing the solvents and excess hydrochloric acid, the free base of the ester is liberated at 0° C. The dimethylphosphinyl-methyl N-(8-trifluoromethyl-4-quinolyl)-anthranilate obtained is identical to that prepared in Example (2a). Yield 7.6 grams (90% of theory).

reactant | dimethylphosphinylmethyl anthranilate | 0.02 mol, 4.6 grams | C(C=1C(N)=CC=CC1)(=O)OCP(=O)(C)C | C10H14NO3P
reactant | 4-chloro-8-trifluoromethylquinoline | 0.02 mol, 4.6 grams | ClC1=CC=NC2=C(C=CC=C12)C(F)(F)F | C10H5ClF3N
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
solvent | hydrochloric acid | 2.3 ml | Cl | ClH
product | dimethylphosphinyl-methyl N-(8-trifluoromethyl-4-quinolyl)-anthranilate | FC(C=1C=CC=C2C(=CC=NC12)NC=1C(C(=O)OCP(=O)(C)C)=CC=CC1)(F)F | C20H18F3N2O3P
